US09302989B2
N-[4-(1-benzoylazetidin-3-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-(4-(azetidin-3-yl)butyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ 7.67-7.57 (m, 2H), 7.57-7.39 (m, 3H), 7.39-7.23 (m, 4H), 6.28 (s, 1H), 4.56 (s, 4H), 4.34 (t, J=8.3 Hz, 1H), 4.11 (t, J=9.0 Hz, 1H), 4.01-3.82 (m, 1H), 3.65 (dd, J=9.8, 5.8 Hz, 1H), 3.07 (dd, J=12.7, 6.8 Hz, 2H), 2.66-2.53 (m, 1H), 1.59 (dd, J=15.3, 7.7 Hz, 2H), 1.51-1.36 (m, 2H), 1.25 (dd, J=13.5, 6.4 Hz, 2H); MS (ESI(+)) m/e 378 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-(azetidin-3-yl)butyl)isoindoline-2-carboxamide | N1CC(C1)CCCCNC(=O)N1CC2=CC=CC=C2C1 | C16H23N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-benzoylazetidin-3-yl)butyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)(=O)N1CC(C1)CCCCNC(=O)N1CC2=CC=CC=C2C1 | C23H27N3O2
